US07091357B2
To a stirred suspension of KOtBu (4.81 g, 42.8 mmol) in tert-butyl methyl ether (tBuOMe) (50 mL) was added (4-bromobutyl)triphenylphosphonium bromide (10.45 g, 21.9 mmol). The resulting mixture was refluxed for 15 min and allowed to cool to room temperature. A solution of 6-oxo-hexanoic acid methyl ester (3.14 g, 21.8 mmol) in tBuOMe (5 mL) was added quickly and the resulting mixture was stirred overnight. Water (30 mL) was added. The aqueous phase was extracted with hexane. The combined organic phases were washed with saturated aqueous NH4Cl and brine and dried. Concentration and purification of the residue by flash chromatography on silica gel (hexane:ethyl acetate, 10:1) afforded 6-cyclobutylidene-hexanoic acid methyl ester (1.27 g, 32%) as a colorless oil: 1H NMR (300 MHz, CDCl3) δ 5.00 (1H, m), 3.64 (3H, s), 2.60 (4H, m), 2.28 (2H, t, J=7.8 Hz), 1.88 (4H, m), 1.60 (2H, m), 1.32 (2H, m); 13C NMR (75 MHz, CDCl3) δ 174.25, 140.29, 119.88, 51.66, 34.23, 31.09, 29.47, 29.44, 27.75, 24.76, 17.28.

reactant | KOtBu | 42.8 mmol, 4.81 g | CC(C)(C)[O-].[K+]
reactant | (4-bromobutyl)triphenylphosphonium bromide | 21.9 mmol, 10.45 g | [Br-].BrCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 6-oxo-hexanoic acid methyl ester | 21.8 mmol, 3.14 g | COC(CCCCC=O)=O | C7H12O3
reactant | Water | 30 mL | O | H2O
solvent | tert-butyl methyl ether | 50 mL | COC(C)(C)C | C5H12O
solvent | tBuOMe | 5 mL | C(C)(C)(C)OC | C5H12O
product | 6-cyclobutylidene-hexanoic acid methyl ester | 1.27 g, 32% | COC(CCCCC=C1CCC1)=O | C11H18O2
